US09403810B2
Step 4: (S)-Methyl 2-((tert-butoxycarbonyl)amino)-3-oxobutanoate
A solution of Dess-Martin periodinane (2.84 g, 6.69 mmol) in DCM (50 mL) was added to a solution of Boc-L-threonine methyl ester (1.3 g, 5.57 mmol) in DCM (20 mL) at room temperature and under a nitrogen atmosphere. The white suspension was stirred at room temperature for 3 hours. The resulting mixture was diluted with DCM (50 mL) and quenched by the addition of saturated NaHCO3 (aq) (50 mL) containing 0.5 M of sodium sulfite (6.2 g). The phases were separated and the organic layer was washed with saturated NaHCO3 (aq) (50 mL) and water, dried over MgSO4, filtered and the solvent removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 10-50% EtOAc in iso-hexane afforded the title compound;

reactant | Dess-Martin periodinane | 6.69 mmol, 2.84 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Boc-L-threonine methyl ester | 5.57 mmol, 1.3 g | COC([C@@H](NC(=O)OC(C)(C)C)[C@H](O)C)=O | C10H19NO5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-Methyl 2-((tert-butoxycarbonyl)amino)-3-oxobutanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)=O | C10H17NO5
